US06060482
8-(Chroman-2-yl-methyl)-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one HCl salt
3.34 g (0.01 mol) of 8-(chroman-2-yl-methyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one are dissolved in 100 ml of diethyl ether with the addition of 20 ml of dichloro-methane and treated with stirring with 6.9 ml of 1.45 N etherial hydrochloric acid with ice-cooling. After 2 h, the precipitate is filtered off with suction, washed with diethyl ether and dried in an oil pump vacuum at 60° C. 3.4 g of the title compound of m.p. 238-240° C. (capillary) are obtained.

reactant | 8-(chroman-2-yl-methyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.01 mol, 3.34 g | O1C(CCC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H27N3O2
reactant | hydrochloric acid | 1.45 N, 6.9 ml | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloro-methane | 20 ml | ClCCl | CH2Cl2
product | 8-(Chroman-2-yl-methyl)-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one HCl salt | 3.4 g | Cl.O1C(CCC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H27N3O2.ClH/c27-22-23(26(17-24-22)19-7-2-1-3-8-19)12-14-25(15-13-23)16-20-11-10-18-6-4-5-9-21(18)28-20;/h1-9,20H,10-17H2,(H,24,27);1H
